US08471005B2
N-{2-[2-(3-Methyl-3H-benzoimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide
Following the synthetic and purification procedures described in Example 1293d, N-[2-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide (56 mg, 0.16 mmol) was coupled with 3-methyl-3H-benzimidazol-5-ylamine (40 mg, 0.28 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 19 mg (22%) of brown powder; LC/MS: 434 (M+H); HPLC: 95% pure, RT=2.19 min; 1H NMR: (DMSO, δ) 10.01 (s, 1H), 9.92 (s, 1H), 9.33 (s, 1H), 9.08 (s, 1H), 8.40 (s, 1H), 7.93 (d, J=7.7, 1H), 7.80 (m, 1H), 7.77 (d, J=9.0, 1H), 7.71 (d, J=9.0, 1H), 7.55 (t, J=7.8, 1H), 7.29 (d, J=7.9, 1H), 7.09 (d, J=4.8, 1H), 7.03 (d, J=4.8, 1H), 3.84 (s, 3H), 3.01 (s, 3H).

reactant | N-[2-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide | 0.16 mmol, 56 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)NS(=O)(=O)C | C14H14N4O3S2
reactant | 3-methyl-3H-benzimidazol-5-ylamine | 0.28 mmol, 40 mg | CN1C=NC2=C1C=C(C=C2)N | C8H9N3
product | N-{2-[2-(3-Methyl-3H-benzoimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | CN1C=NC2=C1C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C1=C(C=CC=C1)NS(=O)(=O)C | C21H19N7O2S
